US04153695
A reaction mixture was prepared from 2.0 g. of 5-methyl-7-chloro-2,3-dihydroimidazo[1,2-c]pyrimidine hydrochloride and 0.7 g. of pyrrolidine in a saturated aqueous sodium bicarbonate solution. The reaction mixture was allowed to remain at ambient temperature for about three hours, after which time the solvent was removed in vacuo. The resulting residue was heated in ethanol. Solids were separated by filtration and dilute aqueous hydrochloric acid was added to the ethanolic filtrate. The solvent was removed from the filtrate in vacuo to yield 5-methyl-7-pyrrolidino-2,3-dihydroimidazo[1,2-c]pyrimidine hydrochloride formed in the above reaction which decomposed above 245° C. after recrystallization from an ethanol-ethyl acetate solvent mixture.

reactant | 5-methyl-7-chloro-2,3-dihydroimidazo[1,2-c]pyrimidine hydrochloride | Cl.CC1=NC(=CC=2N1CCN2)Cl
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-methyl-7-pyrrolidino-2,3-dihydroimidazo[1,2-c]pyrimidine hydrochloride | Cl.CC1=NC(=CC=2N1CCN2)N2CCCC2 | InChI=1S/C11H16N4.ClH/c1-9-13-11(14-5-2-3-6-14)8-10-12-4-7-15(9)10;/h8H,2-7H2,1H3;1H
